US05002585
Preparation of 2-formylamino-4-nitro-1,3,5-trimethoxybenzene
A mixture comprising 0.11 mole (26.6 g) of 2-amino-4-nitro-1,3,5-trimethoxybenzene and 55 ml of formic acid are refluxed during three hours. The reaction mixture is cooled and diluted with iced water. The expected product precipitates and is separated by filtration. After drying it is recrystallized from ethanol. It melts at 98° C.

reactant | 2-amino-4-nitro-1,3,5-trimethoxybenzene | 0.11 mole, 26.6 g | NC1=C(C=C(C(=C1OC)[N+](=O)[O-])OC)OC | C9H12N2O5
reactant | formic acid | 55 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | 2-formylamino-4-nitro-1,3,5-trimethoxybenzene | C(=O)NC1=C(C=C(C(=C1OC)[N+](=O)[O-])OC)OC | C10H12N2O6
